### PR TITLE
feat(Analysis/Matrix/Order): polar decomposition for {invertible, Hermitian} matrices

### PR DESCRIPTION
**Pull request by themathqueen**
For an invertible (resp., Hermitian) matrix `A`, there exists unitary `U` and a positive definite (resp., semidefinite) matrix `P` such that `A = U * P`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Matrix/Order.lean [hunk 1]
```diff
@@ -284,6 +285,17 @@ lemma posDef_iff_eq_conjTranspose_mul_self [DecidableEq n] {A : Matrix n n 𝕜}
 @[deprecated (since := "2025-08-07")] alias PosDef.posDef_iff_eq_conjTranspose_mul_self :=
   CStarAlgebra.isStrictlyPositive_iff_eq_star_mul_self
 
+/-- This is the polar decomposition for invertible matrices. -/
+theorem IsUnit.eq_unitaryGroup_mul_posDef [DecidableEq n] {A : Matrix n n 𝕜} (hA : IsUnit A) :
+    ∃ (U : unitaryGroup n 𝕜) (P : Matrix n n 𝕜) (_ : P.PosDef), A = U * P := by
+  have h : (CFC.abs A).PosDef := by
+    refine (IsUnit.isStrictlyPositive ?_ (CFC.abs_nonneg A)).posDef
+    exact (CFC.isUnit_sqrt_iff (star A * A)).mpr <| by simp [hA]
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean:293]: Do we not already have `IsUnit A` -> `IsStrictlyPositive (CFC.abs A)`? Should we?

**Review by j-loreaux — COMMENTED** [review]
Literally none of this is specific to matrices. All of this works in a unital C⋆-algebra. In fact, you can do a lot more. You can get a continuous path in `Aˣ` from `CFC.abs a` to the unitary. I have code for this somewhere.

Because what this really wants is a much more general set-up, I'm going to close this. However, I'll reach out on Zulip and share the code I have for this with you. Then you can maybe work from there.
